US08106215B2
2,3-Dihydro-benzo[1,4]dioxine-5-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide
prepared by reaction of 3,4-dihydro-benzo[1,4]dioxine-5-carboxylic acid-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide with 2-methyl-5-m-tolyl-thiazole-4-carboxylic acid.

reactant | 3,4-dihydro-benzo[1,4]dioxine-5-carboxylic acid-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN[C@@H]([C@H]2C1)CNC(=O)C1=CC=CC=2OCCOC21 | C18H24N2O3
reactant | 2-methyl-5-m-tolyl-thiazole-4-carboxylic acid | CC=1SC(=C(N1)C(=O)O)C=1C=C(C=CC1)C | C12H11NO2S
product | 2,3-Dihydro-benzo[1,4]dioxine-5-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN([C@@H]([C@H]2C1)CNC(=O)C1=CC=CC=2OCCOC21)C(=O)C=2N=C(SC2C=2C=C(C=CC2)C)C | C30H33N3O4S
